US07723347B2
6-Chloro-N-[3-fluoro-4-(1H-pyrrolo[2,3-b]pyridin-4-ylmethyl)phenyl]pyrimidine-2,4-diamine
40 mg (0.15 mmol) of 3-fluoro-4-(1H-pyrrolo[2,3-b]pyridin-4-ylmethyl)aniline and 29 mg (0.18 mmol) of 4,6-dichloropyrimidine-2-amine are suspended in 2 ml of water and 0.11 ml of 2N hydrochloric acid. The reaction mixture is heated at reflux for 15 hours. After cooling, the mixture is made alkaline using dilute aqueous sodium hydroxide solution, a little DMF is added and the mixture is extracted with ethyl acetate. The extract is dried over sodium sulfate and the solvent is removed under reduced pressure. The residue is purified by preparative HPLC.

reactant | 3-fluoro-4-(1H-pyrrolo[2,3-b]pyridin-4-ylmethyl)aniline | 0.15 mmol, 40 mg | FC=1C=C(N)C=CC1CC1=C2C(=NC=C1)NC=C2 | C14H12FN3
reactant | 4,6-dichloropyrimidine-2-amine | 0.18 mmol, 29 mg | ClC1=NC(=NC(=C1)Cl)N | C4H3Cl2N3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | DMF | CN(C)C=O | C3H7NO
solvent | water | 2 ml | O | H2O
solvent | hydrochloric acid | 2N, 0.11 ml | Cl | ClH
product | 6-Chloro-N-[3-fluoro-4-(1H-pyrrolo[2,3-b]pyridin-4-ylmethyl)phenyl]pyrimidine-2,4-diamine | ClC1=CC(=NC(=N1)NC1=CC(=C(C=C1)CC1=C2C(=NC=C1)NC=C2)F)N | C18H14ClFN6
